US06660753B2
In a similar fashion, 5-hydroxynicotinoyl chloride was prepared from 5-hydroxynicotinic acid hydrochloride, which was obtained form the hydrolysis of 5-hydroxynicotinic acid methyl ester (1.53 g, 10 mmol). Treatment of the acid chloride with pyrid-2-ylamidoxime (1.37 g, 10 mmol) and triethylamine (4.04g, 40 mmol) in dichloromethane (10 mL), followed by heating in dimethylformamide (20 mL) at 120° C. for 2 hours afforded 497 mg (21%) 3-(2-pyridyl)-5-(5-hydroxy-pyrid-3-yl)-1,2,4-oxadiazole.

reactant | 5-hydroxynicotinoyl chloride | OC=1C=NC=C(C(=O)Cl)C1 | C6H4ClNO2
reactant | 5-hydroxynicotinic acid hydrochloride | Cl.OC=1C=NC=C(C(=O)O)C1
reactant | 5-hydroxynicotinic acid methyl ester | 10 mmol, 1.53 g | COC(C1=CN=CC(=C1)O)=O | C7H7NO3
reactant | triethylamine | 40 mmol, 4.04g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-(2-pyridyl)-5-(5-hydroxy-pyrid-3-yl)-1,2,4-oxadiazole | 497 mg, 21% | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)O | C12H8N4O2
